US05755873
To 150 g of methanol was added with stirring 20 g (87.6 mmol) of dimethylsuccinyl succinate, 53.9 g (201.6 mmol) of 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide (Aldrich Chemical Co.), and 0.7 g of concentrated sulfuric acid. The reaction mixture was heated slowly to 95° to 97° C. and maintained at that temperature for five hours. After the reaction mixture was cooled to 50° C., 26 g of sodium 3-nitrobenzenesulfonate, 2 g of water, and 75 g of 45% aqueous potassium hydroxide were slowly added with stirring. The resultant mixture was then slowly heated to 90° C and maintained at that temperature for four hours. The reaction mixture was cooled to room temperature and added to 500 ml of water. Concentrated sulfuric acid was slowly added to produce a solid that was collected by filtration and washed with water. The wet presscake was dried in an oven to give 43 g (70.4% of theory) of 2,5-bis[4-(3,4-dimethyl-5-isoxazolyl)sulfamoylanilino]terephthalic acid.

reactant | dimethylsuccinyl succinate | 87.6 mmol, 20 g | C1(CCC(=O)OC(C(C(C(=O)O1)C)C)=O)=O | C10H12O6
reactant | 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzenesulfonamide | 201.6 mmol, 53.9 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C11H13N3O3S
reactant | sulfuric acid | 0.7 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium 3-nitrobenzenesulfonate | 26 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | potassium hydroxide | 75 g | [OH-].[K+]
reactant | water | 500 ml | O | H2O
reactant | water | 2 g | O | H2O
solvent | methanol | 150 g | CO | CH4O
product | 2,5-bis[4-(3,4-dimethyl-5-isoxazolyl)sulfamoylanilino]terephthalic acid | 43 g, 70.4% | CC1=NOC(=C1C)NS(=O)(=O)C1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)S(NC2=C(C(=NO2)C)C)(=O)=O)C=C1 | C30H28N6O10S2
